US05554607
3-(2,4-Dimethylphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 16 using 16.3 g of 2,4-dimethylphenyl-isothiocyanate, 18.4 g of N-ethyl glycine, 20.2 g of triethyl amine, and 250 mL of chloroform. Crystallization from ethanol afforded the title compound (10.8 g) as a light peach solid, m.p. 161°-162° C. Anal. Calcd. for. C13H16N2O S: C,62.87; H, 6.49; N, 11.28. Found: C, 62.63; H, 6.45; N, 11.17. Mass spectrum (El, M.+) m/z 248.

reactant | 2,4-dimethylphenyl-isothiocyanate | 16.3 g | CC1=C(C=CC(=C1)C)N=C=S | C9H9NS
reactant | N-ethyl glycine | 18.4 g | C(C)NCC(=O)O | C4H9NO2
reactant | triethyl amine | 20.2 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(2,4-Dimethylphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one | 10.8 g | CC1=C(C=CC(=C1)C)N1C(N(CC1=O)CC)=S | C13H16N2OS
